US03997585
1,3-Bis-O-sulfamyl-1,3-propanediol
When in the above procedure 1,8-octanediol and 1,9-nonanediol are employed in place of 1,3-propanediol, 1,8-bis-O-sulfamyl-1,8-octanediol and 1,9-bis-O-sulfamyl 1,9-nonanediol respectively are obtained.

reactant | 1,8-octanediol | C(CCCCCCCO)O | C8H18O2
reactant | 1,9-nonanediol | C(CCCCCCCCO)O | C9H20O2
reactant | 1,3-propanediol | C(CCO)O | C3H8O2
reactant | 1,8-bis-O-sulfamyl-1,8-octanediol | S(N)(=O)(=O)OCCCCCCCCOS(N)(=O)=O | C8H20N2O6S2
reactant | 1,9-bis-O-sulfamyl 1,9-nonanediol | S(N)(=O)(=O)OCCCCCCCCCOS(N)(=O)=O | C9H22N2O6S2
product | 1,3-Bis-O-sulfamyl-1,3-propanediol | S(N)(=O)(=O)OCCCOS(N)(=O)=O | C3H10N2O6S2
